US06888032B2
The general procedure in example 39 was followed. 3-Iodoanisole (234 mg, 1.0 mmol), 4-chlorothiophenol (145 mg, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 mL) were used to obtain the 3-methoxyphenyl 4-chlorophenyl sulfide (203 mg, 81% yield) as colorless liquid. Column chromatographic solvent (hexane/ethyl acetate=50/1). Rf=0.4 (hexane/ethyl acetate=40/1). 1H NMR (CDCl3, 300 MHz) δ 7.13-7.26 (m, 2 H), 6.88 (ddd, 2 H, J=1.2 Hz, 1.8 Hz, 7.8 Hz), 6.83 (t, 2 H, J=1.5 Hz), 6.78 (ddd, 2 H, J=0.9 Hz, 2.7 Hz, 8.1 Hz), 3.75 (s, 3 H). 13C NMR (CDCl3, 75 MHz) δ 160.2, 136.6, 134.3, 133.4, 132.5, 130.3, 129.5, 123.4, 116.4, 113.3, 55.7. IR (neat, cm−1) 3065, 3002, 2962, 2949, 2820. MS (E) m/z (relative intensity) 252 (30), 250 (100). Anal Cald for C13H11ClOS, Cald. C, 62.27; H, 4.42. Found C, 62.58; H, 4.46.

reactant | 3-Iodoanisole | 1.0 mmol, 234 mg | IC=1C=C(C=CC1)OC | C7H7IO
reactant | 4-chlorothiophenol | 1.0 mmol, 145 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 3-methoxyphenyl 4-chlorophenyl sulfide | 203 mg, 81% yield | ClC1=CC=C(C=C1)SC1=CC(=CC=C1)OC | C13H11ClOS
